US04057647
3 g. of 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol and 15 ml. of formic acid are warmed to 80° for 2 hours. The mixture is cooled and worked up in the customary manner to give 1-formyloxy-3-(2',4'-difluoro-4-biphenylyl)butan-3-ol.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
reactant | formic acid | C(=O)O | CH2O2
product | 1-formyloxy-3-(2',4'-difluoro-4-biphenylyl)butan-3-ol | C(=O)OCCC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C17H16F2O3
